US04866091
A mixture of 4-amino-3-(2,4-difluorophenoxy)benzamide (0.82 g) and methanesulfonyl chloride (0.39 g) in pyridine (5 ml) was stirred for 15 minutes at 5° C. and for 30 minutes at room temperature. Pyridine was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate, washed with diluted hydrochloric acid and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. The residue (1.1 g) was subjected to column chromatography on silica gel (20 g) eluting with a mixture of toluene and ethyl acetate (1:2). The fractions containing the desired compound were combined and concentrated to give colorless crystals of 3-(2,4-difluorophenoxy)-4-(methanesulfonamido)benzamide (0.74 g).

reactant | 4-amino-3-(2,4-difluorophenoxy)benzamide | 0.82 g | NC1=C(C=C(C(=O)N)C=C1)OC1=C(C=C(C=C1)F)F | C13H10F2N2O2
reactant | methanesulfonyl chloride | 0.39 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2,4-difluorophenoxy)-4-(methanesulfonamido)benzamide | 0.74 g | FC1=C(OC=2C=C(C(=O)N)C=CC2NS(=O)(=O)C)C=CC(=C1)F | C14H12F2N2O4S
